US07262185B2
A mixture of 4-nitro[methyl(4-propyl-4H-1,2,4-triazol-3-ylmethyl)]aniline (1.0 g), and 10% Pd-C (0.3 g) in ethanol was stirred strongly for 18 hours under hydrogen atmosphere. Pd-C was removed by filtration, the reaction mixture was concentrated under reduced pressure, and the precipitated crystals were collected by filtration. The crystals were washed with diethylether, to give 4-[methyl(4-propyl-4H-1,2,4-triazol-3-ylmethyl)amino]aniline (0.50 g) as brown crystals.

reactant | 4-nitro[methyl(4-propyl-4H-1,2,4-triazol-3-ylmethyl)]aniline | 1.0 g | [N+](=O)([O-])C1=CC=C(NC(C2=NN=CN2CCC)C)C=C1 | C13H17N5O2
reactant | ethanol | C(C)O | C2H6O
catalyst | Pd-C | 0.3 g | [Pd] | Pd
product | 4-[methyl(4-propyl-4H-1,2,4-triazol-3-ylmethyl)amino]aniline | 0.50 g | CN(C1=CC=C(N)C=C1)CC1=NN=CN1CCC | C13H19N5
